US09428499B2
Step-b: Synthesis of 2-(3-nitrophenyl)-2-oxoacetamide
Under nitrogen atmosphere, (tert-butyl)-2-(3-nitrophenyl)-2-oxoacetamide (1.50 g, 5.99 mmol) was taken in toluene (10 ml) at room temperature, tert-butyldimethylsilyl trifluoromethane sulfonate (1.378 ml, 5.99 mmol) was added and the reaction mixture was heated at 100° C. for 8 hrs. The reaction mixture was concentrated under vacuum and satd. sodium bicarbonate solution was added, the mixture was extracted with ethyl acetate (3×20 ml). Combined organic layer was dried over sodium sulfate and the mixture was concentrated under vacuum to afford the crude product, which was purified by column chromatography to afford yellow solid product (440 mg).

reactant | (tert-butyl)-2-(3-nitrophenyl)-2-oxoacetamide | 5.99 mmol, 1.50 g | C(C)(C)(C)NC(C(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C12H14N2O4
reactant | tert-butyldimethylsilyl trifluoromethane sulfonate | 5.99 mmol, 1.378 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-nitrophenyl)-2-oxoacetamide | 440 mg | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)N)=O | C8H6N2O4
